US08809371B2
N-fluoro-N′-(chloromethyl)triethylenediamine bis(tetrafluoroborate) (2.33 g) was added to an acetonitrile solution (88 ml) containing 5-chloro-1-tosyl-2-(trimethylstannyl)-1H-indole (2.05 g) obtained in the 2nd step in a nitrogen atmosphere, followed by stirring at room temperature for 16 hours. Chloroform was added to the reaction solution, an insoluble precipitate was removed, and the solvent was distilled away under reduced pressure. The obtained residue was purified by silica gel chromatography (n-hexane:ethyl acetate=0:1 to 1:100), and a light yellow solid of 5-chloro-2-fluoro-1-tosyl-1H-indole (520 mg) was thus obtained.

reactant | N-fluoro-N′-(chloromethyl)triethylenediamine bis(tetrafluoroborate) | 2.33 g | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
reactant | acetonitrile | 88 ml | C(C)#N | C2H3N
reactant | 5-chloro-1-tosyl-2-(trimethylstannyl)-1H-indole | 2.05 g | ClC=1C=C2C=C(N(C2=CC1)S(=O)(=O)C1=CC=C(C)C=C1)[Sn](C)(C)C
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-chloro-2-fluoro-1-tosyl-1H-indole | 520 mg | ClC=1C=C2C=C(N(C2=CC1)S(=O)(=O)C1=CC=C(C)C=C1)F | C15H11ClFNO2S
